US08975254B2
c) N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)isoxazole-3-carboxamide
The title compound was prepared using the method of Example 34(d) starting from 5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)isoxazole-3-carboxylic acid (0.222 g, 0.921 mmol) and (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (0.2 g, 0.767 mmol). The product was purified with reverse phase flash-chromatography. 1H-NMR (400 MHz; DMSO-d6): δ 1.16 (d, 3H), 1.34-1.51 (m, 4H), 1.52-1.69 (m, 2H), 3.06 (t, 2H), 3.37-3.45 (m, 1H), 3.61-3.71 (m, 2H), 3.85-3.93 (m, 1H), 4.28-4.34 (m, 2H), 4.41-4.50 (m, 1H), 4.57-4.61 (m, 1H), 6.51 (d, 1H), 6.93 (d, 1H), 7.81 (d, 1H), 7.92 (dd, 1H), 7.97 (dd, 1H), 8.08 (dd, 1H), 8.74 (d, 1H).

reactant | 5-(2-(tetrahydro-2H-pyran-2-yloxy)ethyl)isoxazole-3-carboxylic acid | 0.921 mmol, 0.222 g | O1C(CCCC1)OCCC1=CC(=NO1)C(=O)O | C11H15NO5
reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.767 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
product | N—((S)-1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-5-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)isoxazole-3-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC(=C1)CCOC1OCCCC1 | C24H26ClN5O4
